US05958292
The benzophenonetetracarboxylic dianhydrides are readily available from commercial sources or synthesis. For instance, 3,3',4,4'-benzophenonetetracarboxylic dianhydride (BTDA) is available from Aldrich Chemical Co., Inc. (1001 W. St. Paul Ave., Milwaukee, Wis. 53233). 2,2'-Dichloro-4,4',5,5'-benzophenone tetracarboxylic dianhydride is available from 4-chloro-o-xylene by Friedel-Crafts acylation with oxalyl chloride to give 2,2'-dichloro-4,4',5,5',-tetramethylbenzophenone, followed by oxidation with nitric acid and dehydration of the resulting tetracarboxylic acid as described by Falcigno, et al., J. Poly. Sci. 1992, 30, 1433.

reactant | 3,3',4,4'-benzophenonetetracarboxylic dianhydride | C1=CC2=C(C=C1C(=O)C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | C17H6O7
reactant | 4-chloro-o-xylene | ClC=1C=C(C(=CC1)C)C | C8H9Cl
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | 2,2'-dichloro-4,4',5,5',-tetramethylbenzophenone | ClC1=C(C(=O)C2=C(C=C(C(=C2)C)C)Cl)C=C(C(=C1)C)C | C17H16Cl2O
